US05051422
4-(3,4-Dichlorophenyl)-1-ethyl-N-[4-(1H-imidazol-1-yl)phenyl]-2-piperazinemethanamine
In a manner similar to preparation 2, react 4-(3,4-dichlorophenyl)-1-ethyl-N-[4-(1H-imidazol-1-yl)phenyl]-2-piperazinecarboxamide with lithium aluminum hydride to obtain the title compound.

reactant | 4-(3,4-dichlorophenyl)-1-ethyl-N-[4-(1H-imidazol-1-yl)phenyl]-2-piperazinecarboxamide | ClC=1C=C(C=CC1Cl)N1CC(N(CC1)CC)C(=O)NC1=CC=C(C=C1)N1C=NC=C1 | C22H23Cl2N5O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 4-(3,4-Dichlorophenyl)-1-ethyl-N-[4-(1H-imidazol-1-yl)phenyl]-2-piperazinemethanamine | ClC=1C=C(C=CC1Cl)N1CC(N(CC1)CC)CNC1=CC=C(C=C1)N1C=NC=C1 | C22H25Cl2N5
